US04290963
One gram of 3β-acetoxy-16α-chloro-5-pregnen-20-one is treated analogously to Example 1 in "Dowtherm" for 6 hours at 240° C. and worked up. Recrystallization from isopropyl ether yields 400 mg of 3β-acetoxy-5,16-pregnadien-20-one (56% of theory).

reactant | 3β-acetoxy-16α-chloro-5-pregnen-20-one | One gram | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4C[C@H]([C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)Cl | C23H33ClO3
reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 3β-acetoxy-5,16-pregnadien-20-one | 400 mg, 56% | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C23H32O3
